US06821984B2
7-(2-Chloro-4,6-dimethylphenyl)-2-methyl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridine-3-carboxylic acid (107.0 mg), 1-hydroxybenzotriazole hydrate (50.3 mg), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (72.5 mg), triethylamine (93 μL), and N-propylcyclopropanemethylamine (49 μL) were combined in 4 mL of dichloromethane and stirred at room temperature over night. The reaction mixture was then partitioned between ethyl acetate and 1M hydrochloric acid. The ethyl acetate solution was washed with aqueous sodium bicarbonate, dried with magnesium sulfate, and concentrated. The crude product was chromatographed on silica gel eluting with an acetone/hexane gradient giving a solid. Recrystallization from hexane provided 75.6 mg of 7-(2-chloro-4,6-dimethylphenyl)-2-methyl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridine-3-carboxylic acid cyclopropylmethylpropylamide, mp 120.6-122.0° C.

reactant | 7-(2-Chloro-4,6-dimethylphenyl)-2-methyl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridine-3-carboxylic acid | 107.0 mg | ClC1=C(C(=CC(=C1)C)C)N1C=2C(CCC1)=C(N(N2)C)C(=O)O | C16H18ClN3O2
reactant | 1-hydroxybenzotriazole hydrate | 50.3 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 72.5 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-propylcyclopropanemethylamine | 49 μL | C(CC)NCC1CC1 | C7H15N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | triethylamine | 93 μL | C(C)N(CC)CC | C6H15N
product | 7-(2-chloro-4,6-dimethylphenyl)-2-methyl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridine-3-carboxylic acid cyclopropylmethylpropylamide | 75.6 mg | C1(CC1)CN(C(=O)C=1N(N=C2N(CCCC21)C2=C(C=C(C=C2C)C)Cl)C)CCC | C23H31ClN4O
